US07893056B2
4,6-Dichloro-5-fluoro-2-methylpyrimidine (100 mg, 0.55 mmol) was dissolved in 2 mL of DMSO and stirred at room temperature. Pyrrolidine (50 μL, 0.61 mmol) was added, followed by DIPEA (210 μL, 1.21 mmol). The resulting reaction mixture was stirred for 2 h, and then hydrazine was added (1.0 mL) and the contents were heated to 80° C. for 1 h. The reaction mixture was then cooled to room temperature and purified by RP-HPLC to provide 5-fluoro-4-hydrazino-2-methyl-6-(1-pyrrolidinyl)pyrimidine (69 mg, 59%).

reactant | 4,6-Dichloro-5-fluoro-2-methylpyrimidine | 0.55 mmol, 100 mg | ClC1=NC(=NC(=C1F)Cl)C | C5H3Cl2FN2
reactant | Pyrrolidine | 0.61 mmol, 50 μL | N1CCCC1 | C4H9N
reactant | DIPEA | 1.21 mmol, 210 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | hydrazine | NN | H4N2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 5-fluoro-4-hydrazino-2-methyl-6-(1-pyrrolidinyl)pyrimidine | 69 mg, 59% | FC=1C(=NC(=NC1N1CCCC1)C)NN | C9H14FN5
